US07589090B2
N-[4-Amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-2-chloro-acetamide (477 mg, 1 mmol), 2,6-dimethyl morpholine (0.62 mL, 5 mmol) and sodium iodide (25 mg) were added to 20 mL acetone. The reaction mixture was stirred under nitrogen at 55° C. for 18 hours, then cooled and concentrated under reduced pressure. The residue was diluted with water and extracted with methylene chloride. The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The resulting oil was purified by flash chromatography (0%-20% “Magic Base”/methylene chloride) to give 311 mg of N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-2-(2,6-dimethyl-morpholin-4-yl)-acetamide as an amorphous solid, MS (M+H)=556.

reactant | N-[4-Amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-2-chloro-acetamide | 1 mmol, 477 mg | NC1=NC(=NC=C1OC1=C(C=C(C(=C1)I)OC)C(C)C)NC(CCl)=O | C16H18ClIN4O3
reactant | 2,6-dimethyl morpholine | 5 mmol, 0.62 mL | CC1CNCC(O1)C | C6H13NO
reactant | sodium iodide | 25 mg | [I-].[Na+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | N-[4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-2-(2,6-dimethyl-morpholin-4-yl)-acetamide | 311 mg | NC1=NC(=NC=C1OC1=C(C=C(C(=C1)I)OC)C(C)C)NC(CN1CC(OC(C1)C)C)=O | C22H30IN5O4
